US04939250
(C)7-ACA (1.84 mM) in dry CH2Cl2 (5 ml) was stirred with NBE (9.2 mM) as in Example 3(A) but using triisopropylsilyl trifluoromethanesulphonate (9.2 mM) instead of trimethylsilyl trifluoromethane sulphonate. The reaction mixture was stirred for 3 h, after which time water (2 ml) was added, followed by M tetra-n-butylammonium fluoride solution in tetrahydrofuran (2 ml). The aqueous phase was separated, washed with CH2Cl2 (2×10 ml) at less than 10° C. The pH was adjusted to 6.3 with triethylamine, followed by addition of p-toluene sulphonic acid to pH 1.7. Isopropanol (25 ml) was added dropwise to the rapidly stirred solution. The pH was adjusted to 3 with triethylamine and the solution cooled to 0° C. A further aliquot of isopropanol (25 ml) was added dropwise, the resulting precipitate filtered off, washed with acetone (2×5 ml) and dried at room temperature under vacuum to give EAMACA p-toluenesulphonic acid salt (239 mg, estimated purity 98%). NMR (200 MHz; D2O/DCl); 1.4-1.55 (3H,t); 2.55 (3H,s); 3.2-3.4 (2H,q); 3.7-4.3 (4H,m) 5.35 (1H,d); 5.45 (1H,d), 7.5 (2H,d), 7.85 (2H,d).

reactant | triisopropylsilyl trifluoromethanesulphonate | 9.2 mM | FC(S(=O)(=O)O[Si](C(C)C)(C(C)C)C(C)C)(F)F | C10H21F3O3SSi
reactant | water | 2 ml | O | H2O
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | p-toluenesulphonic acid | 239 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
